US08937071B2
To a solution of 4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)aniline (20 mg, 0.064 mmol), 2-(4-bromo-2,3-difluorophenyl)acetic acid (48.4 mg, 0.077 mmol) and DIEA (0.034 mL, 0.193 mmol) in DCM (3 mL) stirred under a N2 atmosphere at 20° C. was added HATU (29.3 mg, 0.077 mmol) in one charge. The reaction mixture was stirred at 20° C. for 2 h. Then the solution was distributed between DCM and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=5:1, Rf 0.3) to yield a light yellow solid of N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,3-difluorophenyl)acetamide (12 mg, 0.019 mmol, 29.9% yield): 1H NMR (400 MHz, CDCl3) δ 7.69-7.59 (m, 2H), 7.36-7.24 (m, 6H), 7.05 (t, J=7.3 Hz, 1H), 6.96 (d, J=8.4 Hz, 1H), 4.64 (s, 2H), 4.20 (t, J=4.4 Hz, 2H), 3.86 (t, J=4.8 Hz, 2H), 3.71 (s, 2H); ES-LCMS m/z 546.0 (M+H).

reactant | 4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)aniline | 0.064 mmol, 20 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(N)C=C1)C(F)(F)F | C16H16F3NO2
reactant | 2-(4-bromo-2,3-difluorophenyl)acetic acid | 0.077 mmol, 48.4 mg | BrC1=C(C(=C(C=C1)CC(=O)O)F)F | C8H5BrF2O2
reactant | DIEA | 0.193 mmol, 0.034 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.077 mmol, 29.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,3-difluorophenyl)acetamide | 0.019 mmol, 12 mg, 29.9% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C(=C(C=C1)Br)F)F)=O)C(F)(F)F | C24H19BrF5NO3
